US04629736
1.05 g of (S)-3-amino-3-tetradecylcarbamoylpropionic acid benzyl ester and 1.00 g of 6-(6-methanesulfonamidohexanamido)hexanoic acid were mingled in 20 ml of methylenechloride and after adding thereto 500 mg of DCC and treating the mixuture in the same manner as in Example 26, 140 mg of (S)-3-[6-(6-methanesulfonamidohexanamido)hexanamido]-3-tetradecylcarbamoylpropionic acid benzyl ester was obtained.

reactant | (S)-3-amino-3-tetradecylcarbamoylpropionic acid benzyl ester | 1.05 g | C(C1=CC=CC=C1)OC(C[C@@H](C(NCCCCCCCCCCCCCC)=O)N)=O | C25H42N2O3
reactant | 6-(6-methanesulfonamidohexanamido)hexanoic acid | 1.00 g | CS(=O)(=O)NCCCCCC(=O)NCCCCCC(=O)O | C13H26N2O5S
reactant | DCC | 500 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | methylenechloride | 20 ml | C(Cl)Cl | CH2Cl2
product | (S)-3-[6-(6-methanesulfonamidohexanamido)hexanamido]-3-tetradecylcarbamoylpropionic acid benzyl ester | 140 mg | C(C1=CC=CC=C1)OC(C[C@@H](C(NCCCCCCCCCCCCCC)=O)NC(CCCCCNC(CCCCCNS(=O)(=O)C)=O)=O)=O | C38H66N4O7S
